Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Morphine / Pravachol / Sulfa (Sulfonamide Antibiotics) / Zestril
 
Attending: ___.
 
Chief Complaint:
Weakness, shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ h/o COPD on 3L O2, a fib on apixban, CAD s/p CABG, HFpEF,
IDDM, HLD, and obesity presents with generalized weakness and
hypoglycemia. 

The patient reports that for the past two weeks she has been
having diarrhea for about a week and half. Her diarrhea has been
increasing in frequency and is now ___ times a day. She is 
unable
to describe whether her diarrhea has any blood in it because she
cannot see it. She was seen in the ED on ___ and was diagnosed
with a viral infection and discharged home. Over the last day 
she
has developed chills and a cough with worsening orthopnea and
dyspnea on exertion as well as worsening crampy abdominal pain 
in
her lower quadrants. This morning she woke up at 8am and was too
weak to move. She called her daughter who called EMS. She 
reports
that they checked her blood sugar and gave her toast and OJ 
after
which she felt better. She has had no chest pain or shortness of
breath at rest, though she does report she has begun to have
dysuria as of this morning
 
Past Medical History:
 
PAST MEDICAL HISTORY:  
CAD s/p CABG and multiple ___
HFpEF (LVEF = 53% in ___
Hypertension
T2DM
Hyperlipidemia
Peripheral Neuropathy  
h/o herniated disk (receives monthly injections) 
Macular degeneration of L eye 
Cholecystectomy
Venous Stasis
Dry Skin
Hemorrhoids
Bone spur on right foot
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.
 
Physical Exam:
ADMISSION EXAM:
===============
24 HR Data (last updated ___ @ 1634)
    Temp: 97.4 (Tm 97.4), BP: 128/72, HR: 67, RR: 18, O2 sat:
95%, O2 delivery: ra, Wt: 189.59 lb/86 kg   
GENERAL: Elderly female, in NAD,   
HEENT: NC/AT, EOMI, right pupil reactive to light, left eye with
chronic macular degeneration
CARDIAC: Irregularly irregular, systolic murmur best appreciated
at RUSB, rubs, or gallops  
LUNG: Bibasilar crackles, L>R  
ABD: Normal bowel sounds, soft, mild suprapubic TTP,
nondistended, no hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, mild edema to ankles bilaterally 
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented,  motor and sensory function grossly
intact  
SKIN: perirectal erythema, no external hemorrhoids  

DISCHARGE EXAM:
==================
GENERAL: Elderly female, in NAD, lying comfortably in bed   
HEENT: NC/AT, EOMI, right pupil reactive to light, left eye with
chronic macular degeneration
CARDIAC: JVP not appreciated at 45 degrees. Irregularly
irregular, systolic murmur best appreciated at RUSB, rubs, or
gallops  
LUNG: Bibasilar crackles, L > R  
ABD: Normal bowel sounds, soft, mild suprapubic TTP, 
nondistended
EXT: Warm, well perfused, mild edema to ankles bilaterally 
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented,  motor and sensory function grossly
intact  

 
Pertinent Results:
ADMISSION LABS:
==================
___ 09:58AM BLOOD WBC-11.5* RBC-3.99 Hgb-12.1 Hct-37.2 
MCV-93 MCH-30.3 MCHC-32.5 RDW-14.7 RDWSD-50.1* Plt ___
___ 06:15AM BLOOD ___ PTT-30.1 ___
___ 09:58AM BLOOD Glucose-114* UreaN-30* Creat-1.0 Na-132* 
K-4.1 Cl-91* HCO3-23 AnGap-18
___ 09:58AM BLOOD Albumin-4.0 Calcium-9.5 Phos-3.4 Mg-2.2

DISCHARGE LABS:
=================
___ 05:55AM BLOOD WBC-9.2 RBC-3.39* Hgb-10.6* Hct-33.1* 
MCV-98 MCH-31.3 MCHC-32.0 RDW-15.1 RDWSD-53.9* Plt ___
___ 05:55AM BLOOD Glucose-190* UreaN-28* Creat-1.4* Na-139 
K-4.1 Cl-100 HCO3-22 AnGap-17
___ 05:55AM BLOOD Calcium-8.8 Phos-4.3 Mg-2.0

MICRO:
======
___ 7:26 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___: 
      NO ENTERIC GRAM NEGATIVE RODS FOUND. 
      NO SALMONELLA OR SHIGELLA FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 
__________________________________________________________
___ 6:38 pm MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 
__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 2:14 pm
      URINE

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 12:00 pm STOOL     CONSISTENCY: FORMED      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Cepheid nucleic 
acid
      amplification assay.. 
           (Reference Range-Negative). 
__________________________________________________________
___ 12:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------     1 S
__________________________________________________________
___ 10:05 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:58 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
Ms. ___ is a ___ w/ h/o COPD on 3L O2, a fib on 
apixaban, CAD s/p CABG, HFpEF, IDDM, HLD, and obesity who 
presented from home with hypoglycemia and generalized weakness.

#UTI: The patient was found to have a positive UA on admission 
with urine cultures growing enterococcus sensitive to 
amoxicillin. She was having some burning with urination on 
presentation as well as some frequency, both of which improved 
with treatment of her underlying UTI. She was discharged on 
Augmentin 500mg PO BID for a planned 7 day course. Last day of 
antibiotics will be ___. 

___: The patient was admitted with normal renal function. She 
appeared dry on exam, and thus her home Bumex was held. After 
gentle hydration, her Bumex was restarted at which point she 
developed a mild ___ with a peak Creatinine of 1.7. Bumex 2mg 
was thus thought to be to high of a dose, and it was held. She 
was given gentle IV fluids over the next ___ hours with 
improvement of her Creatinine to 1.4 on the day of discharge. 
Given that she was maintaining euvolemia and was without 
respiratory compromise despite no standing diuresis, she was 
discharged without any Bumex. The patient should be weighed 
daily, and Bumex should be restarted if she gains > 3 pounds, or 
if she develops any worsening shortness of breath. PLEASE 
RESTART BUMEX 1mg DAILY IF WEIGHT INCREASES by > 3 pounds, or if 
develops shortness of breath. Please check Basic Metabolic Panel 
on ___ to ensure resolving ___.

#Acute urinary retention: The patient was intermittently 
requiring straight catheterization on discharge with occasional 
PVRs > 200. Please continue to bladder scan Q6 hours and 
straight cath for > 300ccs in bladder. IF patient continues to 
require straight cath for retention, please refer to OB/GYN for 
further workup.

#Diarrhea: 3 days of diarrhea on presentation, stool studies 
negative for any clear etiology. Treated symptomatically with 
Loperamide with resolution. Resumed home bowel regimen on 
discharge.

#HFpEF: 
The patient never displayed signs of decompensated heart failure 
during her admission. Her volume status was managed as above. As 
above, ultimately discharged with no standing diuretic given her 
___ with starting her home Bumex.  PLEASE RESTART BUMEX 1mg 
DAILY IF WEIGHT INCREASES by > 3 pounds, or if develops 
shortness of breath. Please check Basic Metabolic Panel on ___ 
to ensure resolving ___. She was continued on her home 
Metoprolol 12.5mg PO daily.

CHRONIC/RESOLVED:
=================

#Hypoglycemia 
#IDDM
Reportedly finger stick of ___ on arrival of EMS likely in 
setting of poor PO intake, infection and continuation of home 
regimen. The patient was discharged on her home antiglycemic 
regimen. 

#COPD:
On 3L NC at home. At baseline O2 requirement, without any 
evidence of exacerbation while in the hospital. Was placed on 
standing Duonebs q6h, albuterol prn q2h while in the hospital.

#Atrial Fibrillation:
CHAD2-4 transitioned to apixaban during last admission and 
metoprolol for rate control. Was admitted with Apixaban 5mg PO 
BID, however given her ___ as above, this was changed to 
Apixaban 2.5mg PO BID. Please draw BMP on ___. If Cr < 1.4, 
please increase Apixaban to 5mg PO BID.

#Pulmonary HTN
Newly discovered on echo on prior admission. Etiology  unclear 
and likely multifactorial (underlying pulmonary disease or 
thromboembolic disease or related to heart failure. Scheduled to 
follow up with pulmonology as outpt 
 
#Aortic stenosis 
New on echo from prior admission. Valve area 1.1cm. Scheduled to 
follow up with cardiology as outpt. 

#Low back pain: Continued acetaminophen prn; Oxycodone prn for 
breakthrough. 

#CAD s/p CABG: Continued home atorvastatin and aspirin

#Peripheral neuropathy: Gabapentin decreased to 200mg TID given 
worsening renal function. Please draw BMP on ___ and increase 
Gabapentin to 300mg PO BID and 600mg QHS if Cr < 1.4.

#GERD: Continued home omeprazole  

TRANSITIONAL ISSUES:
=======================

VERY IMPORTANT MEDICATION CHANGES:
[] Bumex held on discharge: Weight patient daily and RESTART 
Bumex 1mg PO daily IF weight increases > 3 pounds, OR if 
develops worsening O2 requirement/Shortness of breath (Discharge 
weight 186.95)
[] Apixaban decreased to 2.5mg PO BID: Please draw BMP on ___ 
and increase Apixaban to 5mg PO BID if Cr < 1.4. 
[] Gabapentin decreased to 200mg PO TID: Please draw BMP on ___ 
and increase Gabapentin to 300mg PO BID, 600mg PO QHS if Cr < 
1.4.
[] Antibiotics regimen: Augmentin 500mg PO BID for a total of 7 
days (Last day of antibiotics is ___

OTHER MANAGEMENT
[] The patient had some urinary retention: Please continue to 
bladder scan Q6 hours and straight cath for > 300ccs in bladder. 
IF patient continues to require straight cath for retention, 
please refer to OB/GYN for further workup and a pelvic exam 
should be performed for possible pelvic organ prolapse

FUTURE IMAGING:
[] 15 mm nodule in the apicoposterior segment of the left upper 
lobe is concerning for primary lung malignancy. Single enlarged 
anterior mediastinal lymph node is also concerning.  PET-CT or 
short-term follow-up CT chest in ___ weeks from ___

# CODE: DNR/DNI, confirmed w/ pt (MOLST in chart)  
# CONTACT: ___ ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB 
2. Atorvastatin 80 mg PO QPM 
3. Docusate Sodium 100 mg PO BID 
4. Gabapentin 300 mg PO BID 
5. Gabapentin 600 mg PO QHS 
6. Lidocaine 5% Patch 1 PTCH TD QAM foot pain  
7. Loratadine 10 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. Senna 8.6 mg PO BID:PRN Constipation - First Line 
10. Apixaban 5 mg PO BID 
11. Metoprolol Succinate XL 12.5 mg PO DAILY 
12. Bumetanide 2 mg PO DAILY 
13. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate 
14. Hydrocortisone (Rectal) 2.5% Cream ___ID 
15. SITagliptin 100 mg oral DAILY 
16. Potassium Chloride 40 mEq PO DAILY 
17. Glargine 30 Units Bedtime

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
2.  Apixaban 2.5 mg PO BID  
3.  Gabapentin 200 mg PO TID  
4.  Glargine 30 Units Bedtime 
5.  Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN SOB  
6.  Atorvastatin 80 mg PO QPM  
7.  Docusate Sodium 100 mg PO BID  
8.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate  
9.  Hydrocortisone (Rectal) 2.5% Cream ___ID  
10.  Lidocaine 5% Patch 1 PTCH TD QAM foot pain   
11.  Metoprolol Succinate XL 12.5 mg PO DAILY  
12.  Omeprazole 20 mg PO DAILY  
13.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
14.  SITagliptin 100 mg oral DAILY  
15. HELD- Bumetanide 2 mg PO DAILY  This medication was held. Do 
not restart Bumetanide until you have labs drawn at your rehab
16. HELD- Gabapentin 600 mg PO QHS  This medication was held. Do 
not restart Gabapentin until you have labs drawn at your rehab
17. HELD- Gabapentin 600 mg PO QHS  This medication was held. Do 
not restart Gabapentin until you have labs drawn at your rehab
18. HELD- Gabapentin 600 mg PO QHS  This medication was held. Do 
not restart Gabapentin until you have labs drawn at your rehab
19. HELD- Gabapentin 600 mg PO QHS  This medication was held. Do 
not restart Gabapentin until you have labs drawn at your rehab
20. HELD- Loratadine 10 mg PO DAILY  This medication was held. 
Do not restart Loratadine until your urinary retention improves
21. HELD- Potassium Chloride 40 mEq PO DAILY  This medication 
was held. Do not restart Potassium Chloride until you have labs 
drawn at your rehab

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
- Complicated enterococcal UTI 
- Acute renal failure (resolved)
- Urinary retention
- 1.5 cm LUL nodule w/ LAD concerning for malignancy (CT from 
___

Secondary:
- COPD w/ chronic hypoxemic respiratory failure.
- Chronic diastolic heart failure.
- Moderate aortic stenosis ___ ~ 1.1 cm2)
- Pulmonary artery hypertension (likely mixed type II/III)
- CAD s/p CABG
- Atrial fibrillation
- GERD
- Hypertension
- Chronic LBP
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital because:
- You were having weakness and shortness of breath at home
- You were found to have a urinary tract infection

While you were here:
- We treated your infection with antibiotics and this improved
- You were dehydrated and your diuretic medications was held
- You remained on your home oxygen level of 3L while you were 
here
- When we restarted your Bumex, you had some damage to your 
kidneys
- You were given some IV fluid and your kidney function improved
- When your infections had improved and your kidney function was 
getting better you were discharged to rehab

When you leave:
- Please take all of your medications as prescribed
- Please go to all of your follow up appointments as arranged 
for you

It was a pleasure to care for you during your hospitalization!

- Your ___ care team
 
Followup Instructions:
___